US05244771
50 g of 3-amino-1-methoxynaphthalene was added to 750 mL of 6 N sulfuric acid. The mixture was heated to dissolve the naphthalene and the resulting solution was cooled to 0° C. To the resulting slurry of amine hydrosulfate salt at 0° C. was added a solution of 20 g of sodium nitrite in 30 mL of water. The resulting mixture stirred at 0° C. for 1 hour and was then poured into a solution of 100 g of potassium iodide and 20 g of iodine in 400 mL water. After stirring for 1 hour at room temperature, 250 mL methylene chloride was added. The layers were separated and the aqueous portion was extracted with 3×100 mL methylene chloride. The organic portion was combined with the methylene chloride extracts and was washed with 3×75 mL saturated sodium bisulfite, dried over anhydrous magnesium sulfate, filtered, and stripped. The resulting product was pre-adsorbed onto silica and eluted with hexane. The appropriate fractions were combined, concentrated and the residual oil was further purified by HPLC to yield 15 g of 3-iodo-1-methoxynaphthalene as a yellow oil. The structure was confirmed by NMR.

reactant | 3-amino-1-methoxynaphthalene | 50 g | NC=1C=C(C2=CC=CC=C2C1)OC | C11H11NO
reactant | sulfuric acid | 6 N, 750 mL | S(O)(O)(=O)=O | H2O4S
reactant | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | sodium nitrite | 20 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 100 g | [I-].[K+]
reactant | iodine | 20 g | II | I2
solvent | water | 30 mL | O | H2O
solvent | water | 400 mL | O | H2O
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 3-iodo-1-methoxynaphthalene | 15 g | IC=1C=C(C2=CC=CC=C2C1)OC | C11H9IO
